US08580798B2
4-{4-[3-(6-tert-Butylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carbothioic acid amide
The title compound was prepared in the same manner as described for 1-(6-tert-butylpyrimidin-4-yl)-3-[4-(2-cyanopyridin-4-yloxy)-2-fluorophenyl]urea, replacing 4-(4-amino-3-fluorophenoxy)pyridine-2-car-bonitrile for 4-(4-aminophenoxy)pyridine-2-thioamide. 1H-NMR (DMSO-d6) δ 10.32 (broad s, 1H), 10.20 (broad s, 1H), 10.13 (s, 1H), 9.93 (broad s, 1H), 9.72 (s, 1H), 8.74 (d, J=1.2 Hz, 1H), 8.46 (d, J=5.7 Hz, 1H), 7.95 (d, J=2.1 Hz, 1H), 7.67 (d, J=1.2 Hz, 1H), 7.64 to 7.60 (m, 2H), 7.21 to 7.17 (m, 2H), 7.12 (dd, J=5.7, 3.0 Hz, 1H), 1.26 (s, 9H); LC-MS m/z 423 [M+H]+, RT=3.39 min.

reactant | 1-(6-tert-butylpyrimidin-4-yl)-3-[4-(2-cyanopyridin-4-yloxy)-2-fluorophenyl]urea | C(C)(C)(C)C1=CC(=NC=N1)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C#N)F | C21H19FN6O2
reactant | 4-(4-aminophenoxy)pyridine-2-thioamide | NC1=CC=C(OC2=CC(=NC=C2)C(N)=S)C=C1 | C12H11N3OS
product | 4-{4-[3-(6-tert-Butylpyrimidin-4-yl)ureido]phenoxy}pyridine-2-carbothioic acid amide | C(C)(C)(C)C1=CC(=NC=N1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(N)=S)C=C1)=O | C21H22N6O2S
